US07777042B2
(S)-1-(3-Trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid [(S)-2-(4-isopropoxy-phenyl)-1-(tetrahydro-pyran-4-ylcarbamoyl)-ethyl]-amide
To a room temperature mixture of (S)-3-(4-isopropoxy-phenyl)-2-{[(S)-1-(3-trifluoromethyl-benzenesulfonyl)-piperidine-2-carbonyl]-amino}-propionic acid (96.0 mg, 0.177 mmol) (prepared according to the method described for the preparation of compound 17e, HOBT (29.0 mg, 0.215 mmol), 4-aminotetrahydropyran (19.6 mg, 0.194 mmol), methylene chloride (2 mL), and water (2 mL) was added EDCI (39.0 mg, 0.203 mmol) in one portion. The reaction mixture was stirred at room temperature overnight. The reaction was diluted with methylene chloride, washed with water, dried over MgSO4, filtered, and concentrated. The residue was chromatographed on silica gel eluting with ethyl acetate to afford 77.1 mg (69%) of the title compound as an amorphous white solid. mp: 78.6° C. Rf=0.40 (silica gel, ethyl acetate).

reactant | (S)-3-(4-isopropoxy-phenyl)-2-{[(S)-1-(3-trifluoromethyl-benzenesulfonyl)-piperidine-2-carbonyl]-amino}-propionic acid | 0.177 mmol, 96.0 mg | C(C)(C)OC1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C25H29F3N2O6S
reactant | HOBT | 0.215 mmol, 29.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-aminotetrahydropyran | 0.194 mmol, 19.6 mg | NC1CCOCC1 | C5H11NO
reactant | EDCI | 0.203 mmol, 39.0 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | 2 mL | O | H2O
product | (S)-1-(3-Trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid [(S)-2-(4-isopropoxy-phenyl)-1-(tetrahydro-pyran-4-ylcarbamoyl)-ethyl]-amide | 77.1 mg, 69% | C(C)(C)OC1=CC=C(C=C1)C[C@@H](C(NC1CCOCC1)=O)NC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C30H38F3N3O6S
